US09166177B2
Synthesis of 2,7-bis(5-methoxybiphenyl-2-yl)-9-phenyl-9H-carbazole
A mixture of 10 g (38.2 mmol) of 2-bromo-5-methoxybiphenyl, 8.6 g (17.4 mmol) of 9-phenyl-2,7-bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-9H-carbazole, 0.4 g (0.35 mmol) of tetrakis(triphenylphosphine)palladium, 30 ml of 2M Na2CO3, 60 ml of EtOH and 150 ml toluene was degassed and placed under nitrogen, and then heated at 110° C. for 12 h. After finishing the reaction, the mixture was allowed to cool to room temperature. The reaction mixture was extracted with ethyl acetate and water, dried with anhydrous magnesium sulfate, the solvent was evaporated in vacuum. The residue was purified by column chromatography on silica(hexane-dichloromethane) afforded a white solid (7.1 g, 11.7 mmol, 67%).

reactant | 2-bromo-5-methoxybiphenyl | 38.2 mmol, 10 g | BrC1=C(C=C(C=C1)OC)C1=CC=CC=C1 | C13H11BrO
reactant | 9-phenyl-2,7-bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-9H-carbazole | 17.4 mmol, 8.6 g | C1(=CC=CC=C1)N1C2=CC(=CC=C2C=2C=CC(=CC12)B1OC(C(O1)(C)C)(C)C)B1OC(C(O1)(C)C)(C)C | C30H35B2NO4
reactant | Na2CO3 | 2M, 30 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 60 ml | CCO | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.35 mmol, 0.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2,7-bis(5-methoxybiphenyl-2-yl)-9-phenyl-9H-carbazole | 11.7 mmol, 7.1 g, 67% | COC=1C=CC(=C(C1)C1=CC=CC=C1)C1=CC=2N(C3=CC(=CC=C3C2C=C1)C1=C(C=C(C=C1)OC)C1=CC=CC=C1)C1=CC=CC=C1 | C44H33NO2
